US04478841
The starting product was prepared according to the same procedure as that described in the last paragraph of Example 2. 9.5 g of 5-fluoro-indole (U.S. Pat. No. 879,619) and 11 g 4-vinyl-pyridine were refluxed for 6 hours in 50 ml acetic acid. The mixture was then poured onto 300 g of crushed ice and alkalinized with a 20% potassium carbonate solution. A precipitate formed which was squeezed and washed in water several times. After drying under vacuum, 12 g of 3-[2-(4-pyridyl)-ethyl]-5-fluoro-indole were obtained which melted at 128° C.

reactant | 5-fluoro-indole | 9.5 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | 4-vinyl-pyridine | 11 g | C(=C)C1=CC=NC=C1 | C7H7N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-[2-(4-pyridyl)-ethyl]-5-fluoro-indole | 12 g | N1=CC=C(C=C1)CCC1=CNC2=CC=C(C=C12)F | C15H13FN2
